US09163012B2
2-adamantyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate
To a stirred solution of 1-(2-adamantyl) 4-methyl 4-phenylpiperidine-1,4-dicarboxylate (1.33 g, 3.35 mmol) and MeOH (0.068 mL, 1.67 mmol) in dry THF (20 mL) at rt was added solid LiBH4 (0.30 g, 13.4 mmol). The mixture was stirred at rt for 4 days. The mixture was diluted with 5% aq HCl (50 mL) and extracted with ether (175 mL). The organic layer was washed with satd aq NaHCO3 (50 mL), dried over MgSO4 and concentrated to afford crude title compound (1.21 g) as a white foam. A 40-mg portion was purified by prep HPLC to afford the title compound (23 mg) as a white solid. LC-MS Method 1 tR=2.12 min, m/z=370, 1H NMR (CDCl3) 1.58 (4H), 1.70-2.10 (12H), 2.23 (d, 2H), 3.13 (2H), 3.57 (s, 2H), 3.86 (m, 2H), 4.82 (s, 1H), 7.28 (1H), 7.38 (4H).

reactant | 1-(2-adamantyl) 4-methyl 4-phenylpiperidine-1,4-dicarboxylate | 3.35 mmol, 1.33 g | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC1C2CC3CC(CC1C3)C2)C(=O)OC | C24H31NO4
reactant | MeOH | 1.67 mmol, 0.068 mL | CO | CH4O
reactant | LiBH4 | 13.4 mmol, 0.30 g | [Li+].[BH4-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HCl | 50 mL | Cl | ClH
product | 2-adamantyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 23 mg | OCC1(CCN(CC1)C(=O)OC1C2CC3CC(CC1C3)C2)C2=CC=CC=C2 | C23H31NO3
